US03946009
A suspension of 0.1 mole of sodium phenoxide and 0.1 mole 2,3-dichloropyrazine is refluxed 10-20 hours. The cooled mixture is extracted with diethyl ether, washed with cold 2N sodium hydroxide solution, dried, and evaporated to give 2-chloro-3-phenoxypyrazine.

reactant | sodium phenoxide | 0.1 mole | [O-]C1=CC=CC=C1.[Na+]
reactant | 2,3-dichloropyrazine | 0.1 mole | ClC1=NC=CN=C1Cl | C4H2Cl2N2
product | 2-chloro-3-phenoxypyrazine | ClC1=NC=CN=C1OC1=CC=CC=C1 | C10H7ClN2O
